US07825253B2
6-Chloro-pyridine-3-sulfonic acid {2-[(5-methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-amide
The title compound, MS: m/e=429.1 (M+H+), was prepared in accordance with the general method of example 58 from 5-nitro-2-chloroquinoline, 5-methyl-2-furanmethanamine and 6-chloro-pyridine-3-sulfonylchloride.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 6-chloro-pyridine-3-sulfonylchloride | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
product | 6-Chloro-pyridine-3-sulfonic acid {2-[(5-methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-amide | CC1=CC=C(O1)CNC1=NC2=CC=CC(=C2C=C1)NS(=O)(=O)C=1C=NC(=CC1)Cl | C20H17ClN4O3S
